* File: imm_mux.pex.netlist.pex
* Created: Thu Apr 18 14:05:04 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_IMM_MUX_X0_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_IMM_MUX_X1_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_IMM_MUX_X2_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_IMM_MUX_X3_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_IMM_MUX_VDD 3 22 24 45 66 129
r0 133 138 0.00419427
r1 132 135 0.102649
r2 131 138 0.0648174
r3 127 137 0.00419427
r4 127 129 0.0776
r5 126 138 0.00419427
r6 125 137 0.0648174
r7 123 136 0.00419427
r8 122 137 0.00419427
r9 121 136 0.0648174
r10 119 136 0.00419427
r11 76 135 0.2125
r12 70 76 0.0469158
r13 70 72 0.104615
r14 68 132 0.0242667
r15 68 133 0.2072
r16 66 78 0.921778
r17 55 131 0.2125
r18 49 55 0.0469158
r19 49 51 0.104615
r20 47 126 0.0242667
r21 47 129 0.1296
r22 45 57 0.921778
r23 34 125 0.2125
r24 28 34 0.0469158
r25 28 30 0.104615
r26 26 122 0.0242667
r27 26 123 0.2072
r28 24 36 0.921778
r29 22 78 0.108444
r30 22 72 3.8825
r31 22 68 0.325208
r32 22 57 0.108444
r33 22 51 3.8825
r34 22 47 0.325208
r35 22 36 0.108444
r36 22 30 3.8825
r37 22 26 0.325208
r38 15 22 0.108444
r39 13 121 0.2125
r40 9 22 3.8825
r41 7 13 0.0469158
r42 7 9 0.104615
r43 5 119 0.0242667
r44 5 22 0.325208
r45 3 15 0.921778
.ends

.subckt PM_IMM_MUX_GROUND 1 21 41 42 61 128
r0 132 137 0.00419427
r1 131 134 0.102649
r2 130 137 0.0648174
r3 126 136 0.00419427
r4 126 128 0.076
r5 125 137 0.00419427
r6 124 136 0.0648174
r7 122 135 0.00419427
r8 121 136 0.00419427
r9 120 135 0.0648174
r10 118 135 0.00419427
r11 72 134 0.28
r12 70 72 0.0517569
r13 66 131 0.0258667
r14 66 132 0.2056
r15 52 130 0.28
r16 50 52 0.0517569
r17 46 125 0.0258667
r18 46 128 0.1296
r19 42 61 2.12167
r20 42 70 15.61
r21 42 66 0.323542
r22 42 50 15.61
r23 42 46 0.323542
r24 41 42 2.12167
r25 32 124 0.28
r26 30 32 0.0517569
r27 30 42 15.61
r28 26 121 0.0258667
r29 26 122 0.2056
r30 26 42 0.323542
r31 21 42 2.12167
r32 12 120 0.28
r33 10 12 0.0517569
r34 10 42 15.61
r35 6 118 0.0258667
r36 6 42 0.323542
r37 1 42 2.12167
.ends

.subckt PM_IMM_MUX_RESULT_3 1 3 74
r0 81 86 0.68
r1 77 81 0.68
r2 72 86 0.189414
r3 72 74 0.189414
r4 66 77 0.0477743
r5 66 67 0.398
r6 58 60 0.0677543
r7 44 67 0.0477743
r8 40 43 0.0517569
r9 34 36 0.0625
r10 30 32 0.0725
r11 26 28 0.0775
r12 22 24 0.1375
r13 21 32 0.0046983
r14 21 43 0.4175
r15 15 38 0.0517569
r16 15 17 0.209231
r17 13 36 0.0046983
r18 13 38 0.2425
r19 12 24 0.0046983
r20 11 58 0.0717543
r21 11 12 0.115
r22 10 34 0.0046983
r23 9 28 0.0046983
r24 9 10 1.8775
r25 7 30 0.0046983
r26 7 60 2.72
r27 6 26 0.0046983
r28 5 22 0.0046983
r29 5 6 0.705
r30 4 58 0.68
r31 4 46 0.108444
r32 4 44 0.68
r33 4 40 15.61
r34 4 17 3.8825
r35 3 46 0.916356
r36 1 4 2.1105
.ends

.subckt PM_IMM_MUX_BUSW_RESULT_3 1 3 58
r0 68 73 0.68
r1 64 68 0.68
r2 61 73 0.189414
r3 58 61 0.189414
r4 54 64 0.0477743
r5 53 54 0.532
r6 45 47 0.0687543
r7 32 53 0.0477743
r8 28 31 0.0517569
r9 22 24 0.125
r10 18 20 0.1275
r11 17 24 0.0046983
r12 17 31 3.81
r13 11 26 0.0517569
r14 11 13 0.209231
r15 9 20 0.0046983
r16 9 26 1.4825
r17 7 22 0.0046983
r18 7 47 0.12
r19 6 18 0.0046983
r20 5 45 0.0707543
r21 5 6 0.825
r22 4 45 0.68
r23 4 32 0.68
r24 4 28 15.61
r25 4 13 3.8825
r26 3 4 1.03564
r27 1 4 2.13283
.ends

.subckt PM_IMM_MUX_IMM_3 1 3 67
r0 77 82 0.68
r1 73 77 0.68
r2 70 82 0.189414
r3 67 70 0.189414
r4 62 73 0.0477743
r5 62 63 0.362
r6 39 63 0.0477743
r7 27 28 2.312
r8 25 26 0.642
r9 23 28 0.0446983
r10 23 24 0.14
r11 21 24 0.0446983
r12 21 22 0.258
r13 17 20 0.0517569
r14 14 36 0.0559551
r15 14 15 0.18
r16 13 15 0.0446983
r17 13 20 2.255
r18 7 31 0.0393755
r19 7 9 0.141538
r20 6 25 0.0477743
r21 6 36 0.68
r22 6 17 15.61
r23 5 27 0.0477743
r24 5 26 0.0477743
r25 5 39 0.68
r26 4 22 0.0477743
r27 4 31 0.68
r28 4 9 3.8825
r29 3 4 0.9272
r30 1 6 1.9095
.ends

.subckt PM_IMM_MUX_RESULT_2 1 3 74
r0 81 86 0.68
r1 77 81 0.68
r2 72 86 0.189414
r3 72 74 0.189414
r4 66 77 0.0477743
r5 66 67 0.398
r6 58 60 0.0677543
r7 44 67 0.0477743
r8 40 43 0.0517569
r9 34 36 0.0625
r10 30 32 0.0725
r11 26 28 0.0775
r12 22 24 0.1375
r13 21 32 0.0046983
r14 21 43 0.4175
r15 15 38 0.0517569
r16 15 17 0.209231
r17 13 36 0.0046983
r18 13 38 0.2425
r19 12 24 0.0046983
r20 11 58 0.0717543
r21 11 12 0.115
r22 10 34 0.0046983
r23 9 28 0.0046983
r24 9 10 1.8775
r25 7 30 0.0046983
r26 7 60 2.72
r27 6 26 0.0046983
r28 5 22 0.0046983
r29 5 6 0.705
r30 4 58 0.68
r31 4 46 0.108444
r32 4 44 0.68
r33 4 40 15.61
r34 4 17 3.8825
r35 3 46 0.916356
r36 1 4 2.1105
.ends

.subckt PM_IMM_MUX_BUSW_RESULT_2 1 3 58
r0 68 73 0.68
r1 64 68 0.68
r2 61 73 0.189414
r3 58 61 0.189414
r4 54 64 0.0477743
r5 53 54 0.488
r6 45 47 0.0687543
r7 32 53 0.0477743
r8 28 31 0.0517569
r9 22 24 0.125
r10 18 20 0.1275
r11 17 24 0.0046983
r12 17 31 3.81
r13 11 26 0.0517569
r14 11 13 0.209231
r15 9 20 0.0046983
r16 9 26 1.4825
r17 7 22 0.0046983
r18 7 47 0.12
r19 6 18 0.0046983
r20 5 45 0.0707543
r21 5 6 0.825
r22 4 45 0.68
r23 4 32 0.68
r24 4 28 15.61
r25 4 13 3.8825
r26 3 4 1.03564
r27 1 4 2.13283
.ends

.subckt PM_IMM_MUX_IMM_2 1 3 70
r0 77 82 0.68
r1 73 77 0.68
r2 68 82 0.189414
r3 68 70 0.189414
r4 62 73 0.0477743
r5 62 63 0.38
r6 39 63 0.0477743
r7 27 28 2.312
r8 25 26 0.642
r9 23 28 0.0446983
r10 23 24 0.14
r11 21 24 0.0446983
r12 21 22 0.258
r13 17 20 0.0517569
r14 14 36 0.0559551
r15 14 15 0.18
r16 13 15 0.0446983
r17 13 20 2.255
r18 7 31 0.0393755
r19 7 9 0.141538
r20 6 25 0.0477743
r21 6 36 0.68
r22 6 17 15.61
r23 5 27 0.0477743
r24 5 26 0.0477743
r25 5 39 0.68
r26 4 22 0.0477743
r27 4 31 0.68
r28 4 9 3.8825
r29 3 4 0.9272
r30 1 6 1.9095
.ends

.subckt PM_IMM_MUX_RESULT_0 1 3 71
r0 81 86 0.68
r1 77 81 0.68
r2 74 86 0.189414
r3 71 74 0.189414
r4 66 77 0.0477743
r5 66 67 0.46
r6 58 60 0.0677543
r7 44 67 0.0477743
r8 40 43 0.0517569
r9 34 36 0.0625
r10 30 32 0.0725
r11 26 28 0.0775
r12 22 24 0.1375
r13 21 32 0.0046983
r14 21 43 0.4175
r15 15 38 0.0517569
r16 15 17 0.209231
r17 13 36 0.0046983
r18 13 38 0.2425
r19 12 24 0.0046983
r20 11 58 0.0717543
r21 11 12 0.115
r22 10 34 0.0046983
r23 9 28 0.0046983
r24 9 10 1.8775
r25 7 30 0.0046983
r26 7 60 2.72
r27 6 26 0.0046983
r28 5 22 0.0046983
r29 5 6 0.705
r30 4 58 0.68
r31 4 46 0.108444
r32 4 44 0.68
r33 4 40 15.61
r34 4 17 3.8825
r35 3 46 0.916356
r36 1 4 2.1105
.ends

.subckt PM_IMM_MUX_INPUT_SELECT 4 10 18 22 54 60 68 72 104 110 118 122 154 160
+ 168 172 220
r0 229 234 0.68
r1 226 229 0.68
r2 223 234 0.189414
r3 220 223 0.189414
r4 211 212 1.684
r5 210 226 0.0477743
r6 209 210 0.734
r7 207 226 0.0477743
r8 207 208 0.834
r9 205 206 1.684
r10 185 211 0.0477743
r11 184 193 0.68
r12 184 190 8.27089
r13 184 193 11.07
r14 184 185 0.68
r15 180 181 146.154
r16 179 183 4.23445
r17 178 180 5.58729
r18 178 179 33.0769
r19 176 181 5.58729
r20 176 177 36.5385
r21 175 183 1.10046
r22 174 184 8.27089
r23 174 175 230.385
r24 170 182 4.23445
r25 170 172 64.2308
r26 166 177 5.58729
r27 166 168 90
r28 164 182 4.23445
r29 164 190 490.385
r30 162 182 1.10046
r31 162 163 103.077
r32 158 163 5.58729
r33 158 160 64.2308
r34 156 183 4.23445
r35 156 157 146.538
r36 152 157 5.58729
r37 152 154 246.154
r38 135 212 0.0477743
r39 135 209 0.0477743
r40 134 143 0.68
r41 134 140 8.27089
r42 134 143 11.07
r43 134 135 0.68
r44 130 131 146.154
r45 129 133 4.23445
r46 128 130 5.58729
r47 128 129 33.0769
r48 126 131 5.58729
r49 126 127 36.5385
r50 125 133 1.10046
r51 124 134 8.27089
r52 124 125 230.385
r53 120 132 4.23445
r54 120 122 64.2308
r55 116 127 5.58729
r56 116 118 90
r57 114 132 4.23445
r58 114 140 490.385
r59 112 132 1.10046
r60 112 113 103.077
r61 108 113 5.58729
r62 108 110 64.2308
r63 106 133 4.23445
r64 106 107 146.538
r65 102 107 5.58729
r66 102 104 246.154
r67 85 208 0.0477743
r68 85 205 0.0477743
r69 84 93 0.68
r70 84 90 8.27089
r71 84 93 11.07
r72 84 85 0.68
r73 80 81 146.154
r74 79 83 4.23445
r75 78 80 5.58729
r76 78 79 33.0769
r77 76 81 5.58729
r78 76 77 36.5385
r79 75 83 1.10046
r80 74 84 8.27089
r81 74 75 230.385
r82 70 82 4.23445
r83 70 72 64.2308
r84 66 77 5.58729
r85 66 68 90
r86 64 82 4.23445
r87 64 90 490.385
r88 62 82 1.10046
r89 62 63 103.077
r90 58 63 5.58729
r91 58 60 64.2308
r92 56 83 4.23445
r93 56 57 146.538
r94 52 57 5.58729
r95 52 54 246.154
r96 35 206 0.0477743
r97 34 43 0.68
r98 34 40 8.27089
r99 34 43 11.07
r100 34 35 0.68
r101 30 31 146.154
r102 29 33 4.23445
r103 28 30 5.58729
r104 28 29 33.0769
r105 26 31 5.58729
r106 26 27 36.5385
r107 25 33 1.10046
r108 24 34 8.27089
r109 24 25 230.385
r110 20 32 4.23445
r111 20 22 64.2308
r112 16 27 5.58729
r113 16 18 90
r114 14 32 4.23445
r115 14 40 490.385
r116 12 32 1.10046
r117 12 13 103.077
r118 8 13 5.58729
r119 8 10 64.2308
r120 6 33 4.23445
r121 6 7 146.538
r122 2 7 5.58729
r123 2 4 246.154
.ends

.subckt PM_IMM_MUX_BUSW_RESULT_0 1 3 58
r0 68 73 0.68
r1 64 68 0.68
r2 61 73 0.189414
r3 58 61 0.189414
r4 54 64 0.0477743
r5 53 54 0.526
r6 45 47 0.0687543
r7 32 53 0.0477743
r8 28 31 0.0517569
r9 22 24 0.125
r10 18 20 0.1275
r11 17 24 0.0046983
r12 17 31 3.81
r13 11 26 0.0517569
r14 11 13 0.209231
r15 9 20 0.0046983
r16 9 26 1.4825
r17 7 22 0.0046983
r18 7 47 0.12
r19 6 18 0.0046983
r20 5 45 0.0707543
r21 5 6 0.825
r22 4 45 0.68
r23 4 32 0.68
r24 4 28 15.61
r25 4 13 3.8825
r26 3 4 1.03564
r27 1 4 2.13283
.ends

.subckt PM_IMM_MUX_IMM_0 1 3 67
r0 77 82 0.68
r1 73 77 0.68
r2 70 82 0.189414
r3 67 70 0.189414
r4 62 73 0.0477743
r5 62 63 0.402
r6 39 63 0.0477743
r7 27 28 2.312
r8 25 26 0.642
r9 23 28 0.0446983
r10 23 24 0.14
r11 21 24 0.0446983
r12 21 22 0.258
r13 17 20 0.0517569
r14 14 36 0.0559551
r15 14 15 0.18
r16 13 15 0.0446983
r17 13 20 2.255
r18 7 31 0.0393755
r19 7 9 0.141538
r20 6 25 0.0477743
r21 6 36 0.68
r22 6 17 15.61
r23 5 27 0.0477743
r24 5 26 0.0477743
r25 5 39 0.68
r26 4 22 0.0477743
r27 4 31 0.68
r28 4 9 3.8825
r29 3 4 0.9272
r30 1 6 1.9095
.ends

.subckt PM_IMM_MUX_RESULT_1 1 3 71
r0 81 86 0.68
r1 77 81 0.68
r2 74 86 0.189414
r3 71 74 0.189414
r4 66 77 0.0477743
r5 66 67 0.432
r6 58 60 0.0677543
r7 44 67 0.0477743
r8 40 43 0.0517569
r9 34 36 0.0625
r10 30 32 0.0725
r11 26 28 0.0775
r12 22 24 0.1375
r13 21 32 0.0046983
r14 21 43 0.4175
r15 15 38 0.0517569
r16 15 17 0.209231
r17 13 36 0.0046983
r18 13 38 0.2425
r19 12 24 0.0046983
r20 11 58 0.0717543
r21 11 12 0.115
r22 10 34 0.0046983
r23 9 28 0.0046983
r24 9 10 1.8775
r25 7 30 0.0046983
r26 7 60 2.72
r27 6 26 0.0046983
r28 5 22 0.0046983
r29 5 6 0.705
r30 4 58 0.68
r31 4 46 0.108444
r32 4 44 0.68
r33 4 40 15.61
r34 4 17 3.8825
r35 3 46 0.916356
r36 1 4 2.1105
.ends

.subckt PM_IMM_MUX_BUSW_RESULT_1 1 3 58
r0 68 73 0.68
r1 64 68 0.68
r2 61 73 0.189414
r3 58 61 0.189414
r4 54 64 0.0477743
r5 53 54 0.556
r6 45 47 0.0687543
r7 32 53 0.0477743
r8 28 31 0.0517569
r9 22 24 0.125
r10 18 20 0.1275
r11 17 24 0.0046983
r12 17 31 3.81
r13 11 26 0.0517569
r14 11 13 0.209231
r15 9 20 0.0046983
r16 9 26 1.4825
r17 7 22 0.0046983
r18 7 47 0.12
r19 6 18 0.0046983
r20 5 45 0.0707543
r21 5 6 0.825
r22 4 45 0.68
r23 4 32 0.68
r24 4 28 15.61
r25 4 13 3.8825
r26 3 4 1.03564
r27 1 4 2.13283
.ends

.subckt PM_IMM_MUX_IMM_1 1 3 67
r0 77 82 0.68
r1 73 77 0.68
r2 70 82 0.189414
r3 67 70 0.189414
r4 62 73 0.0477743
r5 62 63 0.394
r6 39 63 0.0477743
r7 27 28 2.312
r8 25 26 0.642
r9 23 28 0.0446983
r10 23 24 0.14
r11 21 24 0.0446983
r12 21 22 0.258
r13 17 20 0.0517569
r14 14 36 0.0559551
r15 14 15 0.18
r16 13 15 0.0446983
r17 13 20 2.255
r18 7 31 0.0393755
r19 7 9 0.141538
r20 6 25 0.0477743
r21 6 36 0.68
r22 6 17 15.61
r23 5 27 0.0477743
r24 5 26 0.0477743
r25 5 39 0.68
r26 4 22 0.0477743
r27 4 31 0.68
r28 4 9 3.8825
r29 3 4 0.9272
r30 1 6 1.9095
.ends

