* File: inv.pex.netlist.pex
* Created: Mon Apr 15 16:30:49 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_VDD 1 3 17
r0 15 19 0.2125
r1 13 17 0.027
r2 13 15 0.108266
r3 5 19 0.0506881
r4 5 7 0.104615
r5 3 21 0.916356
r6 1 21 0.108444
r7 1 13 0.975625
r8 1 7 3.8825
.ends

.subckt PM_INV_GROUND 1 2 13
r0 16 18 0.0517569
r1 14 18 0.28
r2 13 14 0.135266
r3 9 13 0.027
r4 2 16 15.61
r5 2 9 0.970625
r6 1 2 2.1105
.ends

.subckt PM_INV_OUT 1 3 33
r0 28 30 0.085
r1 24 26 0.09
r2 19 22 0.0517569
r3 17 30 0.0046983
r4 16 49 0.0559551
r5 16 17 0.5425
r6 15 49 0.0559551
r7 14 26 0.0046983
r8 14 15 2.7925
r9 12 28 0.0046983
r10 12 23 2.5
r11 11 24 0.0046983
r12 11 22 0.4575
r13 5 23 0.0517569
r14 5 7 0.209231
r15 4 49 0.68
r16 4 33 0.68
r17 4 19 15.61
r18 4 7 3.8825
r19 3 4 0.9272
r20 1 4 1.9095
.ends

.subckt PM_INV_IN 12 16 20
r0 18 30 0.68
r1 18 30 11.07
r2 18 20 0.68
r3 14 16 353.462
r4 10 12 476.923
r5 8 14 5.58729
r6 8 9 22.3077
r7 6 10 5.58729
r8 6 7 21.5385
r9 5 9 5.58729
r10 4 18 8.27089
r11 4 5 168.846
r12 3 18 8.27089
r13 2 7 5.58729
r14 2 3 31.9231
.ends

