* File: or.pex.netlist.pex
* Created: Mon Apr 15 15:54:33 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR_1 1 3
r0 17 23 0.00419427
r1 17 19 0.00586667
r2 16 23 0.0648174
r3 16 22 0.21
r4 10 22 0.0517569
r5 10 12 0.313846
r6 3 4 5.41017
r7 1 19 0.354773
r8 1 12 1.94125
r9 1 4 3.89501
.ends

.subckt PM_OR_2 1 2 3
r0 33 36 0.0517569
r1 33 35 0.0517569
r2 24 26 0.155
r3 20 37 0.0648174
r4 20 35 0.28
r5 19 36 1.955
r6 17 26 0.0046983
r7 16 29 0.0517569
r8 16 17 0.3075
r9 14 19 0.0446983
r10 14 15 0.56
r11 13 15 0.0446983
r12 12 24 0.0046983
r13 12 13 1.5675
r14 7 37 0.00419427
r15 7 9 0.0109333
r16 3 33 15.61
r17 3 29 15.61
r18 3 9 0.352955
r19 2 3 2.12167
r20 1 3 2.12167
.ends

.subckt PM_OR_3 10 20 33 35
r0 65 68 0.0517569
r1 60 63 0.0517569
r2 55 57 0.145
r3 49 69 0.485
r4 44 69 0.0490438
r5 44 46 0.418462
r6 42 49 0.0446983
r7 42 63 0.465
r8 41 57 0.0046983
r9 41 68 0.525
r10 39 52 0.0517569
r11 38 55 0.0046983
r12 38 39 0.485
r13 37 60 11.07
r14 37 46 1.94125
r15 36 65 15.61
r16 36 52 11.07
r17 35 37 0.460889
r18 33 36 2.12167
r19 29 31 16.5385
r20 24 26 10
r21 22 31 0.587288
r22 22 23 94.6154
r23 18 26 0.587288
r24 18 20 67.6923
r25 17 29 0.587288
r26 16 28 4.23445
r27 16 17 185.769
r28 15 28 4.23445
r29 14 24 0.587288
r30 14 15 316.923
r31 12 23 5.58729
r32 12 13 68.8462
r33 8 37 8.27089
r34 8 10 120
r35 7 37 8.27089
r36 6 13 5.58729
r37 6 7 122.308
r38 4 28 1.10046
r39 4 5 64.6154
r40 3 5 5.58729
r41 2 36 8.27089
r42 2 3 195.385
.ends

.subckt PM_OR_Y 1 3 46
r0 46 49 0.68
r1 34 49 0.0223492
r2 33 34 0.252
r3 31 49 0.0223492
r4 31 32 0.544
r5 29 32 0.0446983
r6 29 30 0.146
r7 25 28 0.0517569
r8 22 42 0.0559551
r9 22 28 2.6875
r10 19 37 0.0559551
r11 19 20 0.6275
r12 14 23 0.0517569
r13 14 16 0.209231
r14 12 23 0.2375
r15 10 12 0.0446983
r16 10 11 0.0875
r17 8 20 0.0446983
r18 8 9 0.0975
r19 7 11 0.0446983
r20 6 9 0.0446983
r21 6 7 1.2625
r22 5 33 0.0477743
r23 5 42 0.68
r24 5 25 15.61
r25 4 51 0.108444
r26 4 30 0.0477743
r27 4 37 0.68
r28 4 16 3.8825
r29 3 51 0.921778
r30 1 5 1.89833
.ends

.subckt PM_OR_B 11 15 39
r0 33 35 0.0517569
r1 32 33 0.9075
r2 30 32 0.0446983
r3 30 31 0.3225
r4 29 31 0.0446983
r5 28 29 0.8975
r6 27 46 0.0573344
r7 26 28 0.0446983
r8 26 27 0.295
r9 25 46 0.662564
r10 25 46 11.07
r11 25 39 0.68
r12 25 35 11.07
r13 21 23 17.3077
r14 19 25 8.27089
r15 19 20 16.9231
r16 17 20 5.58729
r17 17 18 17.3077
r18 13 18 5.58729
r19 13 15 186.154
r20 9 11 57.6923
r21 8 25 8.27089
r22 7 23 0.587288
r23 7 8 33.8462
r24 5 9 5.58729
r25 5 6 33.4615
r26 4 21 0.587288
r27 3 6 5.58729
r28 3 4 368.462
.ends

.subckt PM_OR_A 5 9 29
r0 23 44 0.0559551
r1 22 23 0.41
r2 20 22 0.0446983
r3 20 21 0.1875
r4 19 21 0.0446983
r5 18 19 0.7025
r6 17 25 0.0517569
r7 16 18 0.0446983
r8 16 17 0.0925
r9 15 44 0.68
r10 15 44 11.07
r11 15 35 8.27089
r12 15 29 0.68
r13 15 25 11.07
r14 13 15 8.27089
r15 13 14 149.231
r16 11 14 5.58729
r17 11 12 51.1538
r18 7 12 5.58729
r19 7 9 292.692
r20 5 35 346.538
.ends

